US09334286B2
Preparation 44: 4-(4-(3-Chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)tetrahydrofuran-3-ol
A mixture of Cs2CO3 (34 mg, 0.105 mmol), 3-chloro-6-(1H-pyrazol-4-yl)isoquinoline (16 mg, 0.070 mmol) and 3,6-dioxabicyclo[3.1.0]hexane (Preparation 37, 24 mg, 0.279 mmol) in DMF (3 mL) was stirred at 120° C. under microwave irradiation for 60 minutes. The reaction was cooled, concentrated in vacuo and purified using Biotage silica gel column chromatography eluting with 50-75% EtOAc/cyclohexane to give the title compound as white solid (10 mg, 46%).

reactant | Cs2CO3 | 0.105 mmol, 34 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-6-(1H-pyrazol-4-yl)isoquinoline | 0.070 mmol, 16 mg | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NNC1 | C12H8ClN3
reactant | 3,6-dioxabicyclo[3.1.0]hexane | 0.279 mmol, 24 mg | C12COCC2O1 | C4H6O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(4-(3-Chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)tetrahydrofuran-3-ol | 10 mg, 46% | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)C1C(COC1)O | C16H14ClN3O2
